US08003820B2
A clear solution was prepared by dissolving 20 g of crude alendronate sodium in a solvent mixture containing 400 ml of water and 100 ml of methyl ethyl ketone by heating to reflux at temperature of about 72° C. with simultaneous stirring over a period of about 70 minutes. The solution was than filtered through cloth to make it free from particles, the filter was washed with 8 ml of water and the filtrate was transferred into another round bottom flask, subjected to cooling to a temperature of about 30° C. and than to 5° C. with simultaneous stirring for a period of about 90 minutes until the solid separated. The solid that was obtained was separated through filtration followed by washing with a mixture of 2 ml of methyl ethyl ketone and 4 ml of water and subjected to suction drying at a temperature of about 25° C. for a period of about 20 minutes. Then the obtained wet solid was finally subjected to drying in an oven by applying vacuum at about 100 millibarto afford 17 g (yield 85%) alendronate sodium trihydrate.

reactant | alendronate sodium | 20 g | C(CC(O)(P(=O)(O)O)P(=O)(O)[O-])CN.[Na+]
reactant | water | 400 ml | O | H2O
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | alendronate sodium trihydrate | 17 g, yield 85% | C(CC(O)(P(=O)(O)O)P(=O)(O)[O-])CN.O.O.O.[Na+] | InChI=1S/C4H13NO7P2.Na.3H2O/c5-3-1-2-4(6,13(7,8)9)14(10,11)12;;;;/h6H,1-3,5H2,(H2,7,8,9)(H2,10,11,12);;3*1H2/q;+1;;;/p-1
